US05254558
To a solution of 2-(5-acetamido-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide (0.86 g) in tetrahydrofuran (15 mL) at 0° C. was added tetrabutylammonium fluoride (1.95 mL, 1M in tetrahydrofuran) and the resulting solution was allowed to stir for 5 min. The mixture was poured into saturated aqueous ammonium chloride and the product extracted into ethyl acetate. The organic solution was washed (water), dried, and evaporated. The resulting white solid was collected and washed with ether:hexane to provide 2-(5-acetamido-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(3,3,3-trifluoro-1-isopropyl-2-hydroxypropyl)acetamide (0.6 g); NMR: 8.87 (s,1), 8.07 (d,1), 7.57 (m,5), 4.62 (d,1), 4.42 (d,1), 4.10 (m,1), 3.68 (t,1), 2.18 (s,3), 1.80 (m,1), 0.89 (d,3), 0.82 (d,3).

reactant | 2-(5-acetamido-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 0.86 g | C(C)(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)C1=CC=CC=C1 | C26H37F3N4O4Si
reactant | tetrabutylammonium fluoride | 1M, 1.95 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-(5-acetamido-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(3,3,3-trifluoro-1-isopropyl-2-hydroxypropyl)acetamide | 0.6 g | C(C)(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)O)C(C)C)C1=CC=CC=C1 | C20H23F3N4O4
